US06943172B2
Preparation of 4-(4-pyridinylthio)aniline
To a solution of 4-aminothiophenol (20.2 g, 156.5 mmol) in anhydrous DMF (200 mL) was added 4-chloropyridine hydrochloride (24.4 g, 161.0 mmol) followed by potassium carbonate (44 g, 318.4 mmol). The reaction mixture was heated at 80° C. overnight, then diluted with ethyl acetate (400 mL) and water (400 mL). The aqueous layer was back-extracted with ethyl acetate (2×200 mL). The combined organic layers were washed with a saturated aqueous NaCl solution (200 mL), dried over anhy MgSO4, and concentrated under reduced pressure. The residue was filtered through a pad of silica with ethyl acetate and the resulting material was triturated with an ethyl ether/hexane solution to afford the desired product (24.7 g, 78%). TLC (50% ethyl acetate/50% hexane) Rf 0.25; 1H-NMR (DMSO-d6) δ 5.67 (bs, 2H), 6.65 (d, J=8.4 Hz, 2H), 6.88 (d, J=6.2 Hz, 2H), 7.19 (d, J=8.4 Hz, 2H), 8.27 (d, J=6.2 Hz, 2H), MS[M+H]+=203.

reactant | 4-aminothiophenol | 156.5 mmol, 20.2 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | 4-chloropyridine hydrochloride | 161.0 mmol, 24.4 g | Cl.ClC1=CC=NC=C1
reactant | potassium carbonate | 318.4 mmol, 44 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 400 mL | O | H2O
product | 4-(4-pyridinylthio)aniline | 24.7 g, 78% | N1=CC=C(C=C1)SC1=CC=C(N)C=C1 | C11H10N2S
